US04117128
2-Ethyl-3-(4-hydroxyphenylsulfonyl)benzofuran is prepared by acylation of 2-ethylbenzofuran with 4-methoxybenzenesulfonyl chloride followed by demethylation of the 2-ethyl-3-(4-methoxyphenylsulfonyl)benzofuran thus formed as described hereinabove.

reactant | 2-ethylbenzofuran | C(C)C=1OC2=C(C1)C=CC=C2 | C10H10O
reactant | 4-methoxybenzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 2-ethyl-3-(4-methoxyphenylsulfonyl)benzofuran | C(C)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)OC)C=CC=C2 | C17H16O4S
product | 2-Ethyl-3-(4-hydroxyphenylsulfonyl)benzofuran | C(C)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)O)C=CC=C2 | C16H14O4S
